US07626021B2
2-Hydroxypicolinic acid (9.80 g, 70.45 mmol), N,N-dimethylformamide (150 ml), di-iso-propylethylamine (31 ml, 181.58 mmol), and N,O-dimethylhydroxylamine hydrochloride (7.21 g, 73.92 mmol), were stirred at 0 C. (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (38.44 g, 73.87 mmol) was added and the reaction mixture was slow warmed to room temperature. The reaction was stirred 18 hours. The mixture was concentrated and 20% 2-propanol in dichloromethane added. The mixture was washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, and concentrated. The crude material was purified by flash chromatography (0 to 50% ethyl acetate in hexanes) to give 5.21 g (41%) of 3-hydroxy-pyridine-2-carboxylic acid methoxy-methyl-amide. 1H NMR (250 MHz, CDCl3) δ 11.73 (s, 1H), 8.11 (t, J=2.9 Hz, 1H), 7.32-7.28 (m, 2H), 3.87 (s, 3H), 3.77 (s, 3H).

reactant | 2-Hydroxypicolinic acid | 70.45 mmol, 9.80 g | OC1(NC=CC=C1)C(=O)O | C6H7NO3
reactant | di-iso-propylethylamine | 181.58 mmol, 31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 73.92 mmol, 7.21 g | Cl.CNOC
reactant | (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 73.87 mmol, 38.44 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-pyridine-2-carboxylic acid methoxy-methyl-amide | 5.21 g, 41% | CON(C(=O)C1=NC=CC=C1O)C | C8H10N2O3
